US06465471B1
A mixture of 3,5-dichloroisonicotinic acid (2.88 g, 15 mmol) and thionyl chloride (30 ml) was heated to reflux. A few drops of DMF were added and the suspension refluxed for 2 h to give a slightly yellow solution. Excess reagent was removed under reduced pressure and the residue azeotroped with toluene (2×50 ml) to give 3,5-dichloroisonicotinoyl chloride. This was dissolved in CH2Cl2 (50 ml) and added to a solution of 4-aminobenzyl alcohol (1.60 g, 13 mmol) and NMM (1.65 ml, 15 mmol) in CH2Cl2 (50 ml). The mixture was stirred at room temperature overnight. Manganese IV oxide (activated, <5 micron, ˜85%, 22 g) was added to the resulting suspension. The mixture was stirred at room temperature for 6 h then filtered through Celite®. The filtrate was washed with dilute hydrochloric acid (1M, 50 ml) and saturated aqueous sodium hydrogen carbonate (50 ml), dried (Na2SO4) and evaporated under reduced pressure to give the title compound (2.40 g, 63%) as a pale yellow solid. δH (DMSO-d6) 11.35 (1H, s, CHO), 9.95 (1H, s, CONH), 8.83 (2H, s, pyH), 7.96 (2H, d, J 8.7 Hz, ArH) and 7.88 (2H, d, J 8.7 Hz, ArH); m/z (ESI, 60V) 295 (M++1).

reactant | 3,5-dichloroisonicotinic acid | 15 mmol, 2.88 g | ClC1=C(C(=O)O)C(=CN=C1)Cl | C6H3Cl2NO2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | A few drops | CN(C)C=O | C3H7NO
product | 3,5-dichloroisonicotinoyl chloride | ClC1=C(C(=O)Cl)C(=CN=C1)Cl | C6H2Cl3NO
